US07091380B2
Methyl 4′-{[({1-[(tert-butoxycarbonyl)amino]cyclopropyl}carbonyl)-amino]methyl}-1,1′-biphenyl-2-carboxylate (0.84 g, 2.0 mmol) dissolved in a mixture of DCM (3 mL) and MeOH (45 mL) was cooled to 0° C. This homogenous solution was saturated with anhydrous hydrogen chloride and allowed to sit for 30 minutes. Dry nitrogen was then bubbled through the solution for about 30 min. Solvent was then removed under reduced pressure to yield an oily residue. The oil was then dissolved in DCM and the solvent removed. This process being repeated until a solid amine hydrochloride was obtained. Alternatively, the residue could be dissolved in chloroform followed by saturation with ammonia gas, filtration and solvent removal to obtain solid methyl 4′-({[(1-aminocyclopropyl)carbonyl]amino}methyl)-1,1′-biphenyl-2-carboxylate as the free-base.

reactant | Methyl 4′-{[({1-[(tert-butoxycarbonyl)amino]cyclopropyl}carbonyl)-amino]methyl}-1,1′-biphenyl-2-carboxylate | 2.0 mmol, 0.84 g | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)NCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C24H28N2O5
reactant | hydrogen chloride | Cl | ClH
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 45 mL | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 4′-({[(1-aminocyclopropyl)carbonyl]amino}methyl)-1,1′-biphenyl-2-carboxylate | NC1(CC1)C(=O)NCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C19H20N2O3
